US04276417
7.0 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 250 ml. of methylene chloride and 10 ml. of triethylamine, cooled while stirring to 0° C. and treated with 4.5 ml. of benzoyl chloride in 35 ml. of methylene chloride. The mixture is subsequently stirred at 0° C. for 1 hour, then diluted with water and adjusted to pH 4 with hydrochloric acid. The two phases are separated and the aqueous phase is extracted twice with methylene chloride. The organic extracts are combined, dried over magnesium sulfate and evaporated at 20° C. under reduced pressure. The residue is recrystallized from methylene chloride and diethyl ether, there being obtained pure N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide having a melting point of 182°-183° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide | C(C=C)N(C1=NC=2N(C(=N1)NC(C1=CC=CC=C1)=O)OC(N2)=O)CC=C | C17H16N6O3
